US04216173
Surprisingly, however, it has been found that 1,1-dichloro-4-methyl-pent-1-en-3-one can be reduced with alkali metal borohydrides, preferably sodium borohydride, to give 1,1-dichloro-4-methyl-3-hydroxy-pent-1-ene in virtually quantitative yield.

reactant | 1,1-dichloro-4-methyl-pent-1-en-3-one | ClC(=CC(C(C)C)=O)Cl | C6H8Cl2O
reactant | sodium borohydride | [BH4-].[Na+]
product | 1,1-dichloro-4-methyl-3-hydroxy-pent-1-ene | quantitative yield | ClC(=CC(C(C)C)O)Cl | C6H10Cl2O
